US06699904B2
To a solution of [2-(4-formyl-phenyl)-ethyl]-heptyl-carbamic acid tert-butyl ester (8 g crude, ˜18.4 mmol) and ethyl chloroacetate (27.7 mmol, 2.73 mL) dissolved in anhydrous tetrahydrofuran (50 mL) was added NaH (60% oil dispersion, 27.7 mmol, 1.1 g). The mixture was allowed to stir at room temperature for 1 h, then was refluxed for 10 minutes. The mixture was cooled to room temperature and quenched by the addition of ethanol. The solution was diluted with water and extracted with ethyl acetate (3×). The organic layers were combined, washed with saturated brine (2×), dried over Na2SO4 and concentrated to a crude oil. The oil was dissolved in methanol (150 mL). To this solution was added ammonium formate (34.2 mmol; 2.16 g) and 10% Pd/C (170 mg). The mixture was heated to reflux for 2 h, then cooled to room temperature and filtered through Celite®. The filtrate was concentrated to a tan solid and redissolved in water. The aqueous solution was extracted with ethyl acetate (3×). The organic layers were combined, washed with brine (2×), dried over Na2SO4, and concentrated to a crude oil. The oil was purified by chromatography on silica gel (Merck silica gel 60, art#9385-3) eluting with 35% ethyl acetate in hexanes to give 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}2-hydroxy-propionic acid ethyl ester as a clear oil (3.17 g, 41%).

reactant | [2-(4-formyl-phenyl)-ethyl]-heptyl-carbamic acid tert-butyl ester | ˜18.4 mmol, 8 g | C(C)(C)(C)OC(N(CCCCCCC)CCC1=CC=C(C=C1)C=O)=O | C21H33NO3
reactant | ethyl chloroacetate | 27.7 mmol, 2.73 mL | ClCC(=O)OCC | C4H7ClO2
reactant | NaH | 27.7 mmol, 1.1 g | [H-].[Na+]
reactant | ammonium formate | 34.2 mmol, 2.16 g | C(=O)[O-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 170 mg | [Pd] | Pd
product | 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}2-hydroxy-propionic acid ethyl ester | 3.17 g, 41% | C(C)OC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)O)=O | C25H41NO5
